US05932601
Diethyl azodicarboxylate (DEAD) (4.71 g) was added dropwise, under ice-cooling, to a mixture of 1-(5-methyl-2-phenyl-4-oxazolyl)ethanol (5.0 g), vanilline (3.75 g), triphenylphosphine (Ph3P) (7.1 g) and tetrahydrofuran (THF) (80 ml). The reaction mixture was stirred for 8 hours at room temperature and concentrated under reduced pressure. The residue was subjected to column chromatography on silica gel. From the fraction eluted with ethyl acetate-hexane (1:4, v/v), was obtained 3-methoxy-4-[1-(5-methyl-2-phenyl-4-oxazolyl)ethoxy]benzaldehyde (4.48 g, 54%), which was recrystallized from ethyl acetate-hexane to give colorless needles, m.p.104-105° C.

reactant | Diethyl azodicarboxylate | 4.71 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | 1-(5-methyl-2-phenyl-4-oxazolyl)ethanol | 5.0 g | CC1=C(N=C(O1)C1=CC=CC=C1)C(C)O | C12H13NO2
reactant | vanilline | 3.75 g | COC=1C=C(C=CC1O)C=O | C8H8O3
reactant | triphenylphosphine | 7.1 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
product | 3-methoxy-4-[1-(5-methyl-2-phenyl-4-oxazolyl)ethoxy]benzaldehyde | 4.48 g, 54% | COC=1C=C(C=O)C=CC1OC(C)C=1N=C(OC1C)C1=CC=CC=C1 | C20H19NO4
